US06727275B2
B. Preparation of methyl (2R)-{[4-acetyl-1-(4-chlorophenyl)-5-cyclohexyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]oxy}(phenyl)ethanoate
To a cooled (0° C.) mixture of 4-acetyl-1-(4-chloro-2-fluorophenyl)-5-cyclohexyl-3-hydroxy-1,5-dihydro-2H-pyrrol-2-one (2.05 g, 5.84 mmol), methyl (S)-mandelate (1.36 g, 8.18 mmol) and triphenylphosphine (2.0 g, 7.6 mmol) in THF (50 ml) is added dropwise DIAD (1.6 ml, 7.6 mmol). The reaction is then left to warm to room temperature and is stirred for 12 hours. The solvent is removed under vacuum and the oily residue is plugged through a pad of silica gel (eluent 1/1 hexanes/ethyl acetate). The solvent is removed and the residual oil is purified by radial chromatography (eluent 9/1 hexanes/ethyl acetate) to yield each diastereomer (1 g) as a white foam.

reactant | 4-acetyl-1-(4-chloro-2-fluorophenyl)-5-cyclohexyl-3-hydroxy-1,5-dihydro-2H-pyrrol-2-one | 5.84 mmol, 2.05 g | C(C)(=O)C1=C(C(N(C1C1CCCCC1)C1=C(C=C(C=C1)Cl)F)=O)O | C18H19ClFNO3
reactant | methyl (S)-mandelate | 8.18 mmol, 1.36 g | C([C@@H](O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | triphenylphosphine | 7.6 mmol, 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 7.6 mmol, 1.6 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl (2R)-{[4-acetyl-1-(4-chlorophenyl)-5-cyclohexyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]oxy}(phenyl)ethanoate | C(C)(=O)C1=C(C(N(C1C1CCCCC1)C1=CC=C(C=C1)Cl)=O)O[C@@H](C(=O)OC)C1=CC=CC=C1 | C27H28ClNO5
